US04801609
Step 1: 4-Benzoyl-2(S)-trifluoroacetamidobutyric acid:
Heat at reflux for 3 hours a mixture of N-trifluoroacetyl-L-glutamic anhydride (18.0 g, 80 mmol) and AlCl3 (23.5 g, 177 mmol) in dry benzene (400 ml). Allow to cool, treat with ice (400 ml), conc. HCl (100 ml), and ethylacetate (EtOAc) (400 ml). Dry the organic layer and concentrate to obtain the title compound as a brown crystalline solid (25 g).

reactant | N-trifluoroacetyl-L-glutamic anhydride | 80 mmol, 18.0 g | FC(C(=O)N[C@H]1CCC(=O)OC1=O)(F)F | C7H6F3NO4
reactant | AlCl3 | 177 mmol, 23.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 100 ml | Cl | ClH
reactant | ethylacetate | 400 ml | C(C)OC(C)=O | C4H8O2
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 4-Benzoyl-2(S)-trifluoroacetamidobutyric acid | 25 g | C(C1=CC=CC=C1)(=O)CC[C@@H](C(=O)O)NC(C(F)(F)F)=O | C13H12F3NO4
